US05866560
A solution of 63.9 g of 3-acetoxy-7α-(5-acetoxypentyl)-estra-1,3,5(10)-trien-17-one in 460 ml of dichloromethane is stirred with 460 ml of ethylene glycol, 155 ml of trimethyl orthoformate and 1.2 g of para-toluenesulfonic acid for 3 hours at a bath temperature of 50° C. Then, it is diluted with dichloromethane, washed with sodium bicarbonate and common salt solution and dried on sodium sulfate, concentrated by evaporation in a vacuum and chromatographed on silica gel with hexane/ethyl acetate. 63.2 g of 3-acetoxy-7α-(5-acetoxypentyl)-17,17-ethylenedioxy-estra-1,3,5(10)-triene is obtained as oil.

reactant | 3-acetoxy-7α-(5-acetoxypentyl)-estra-1,3,5(10)-trien-17-one | 63.9 g | C(C)(=O)OC1=CC=2C[C@H]([C@H]3[C@@H]4CCC([C@@]4(C)CC[C@@H]3C2C=C1)=O)CCCCCOC(C)=O | C27H36O5
reactant | ethylene glycol | 460 ml | C(CO)O | C2H6O2
reactant | trimethyl orthoformate | 155 ml | C(OC)(OC)OC | C4H10O3
reactant | para-toluenesulfonic acid | 1.2 g | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
solvent | dichloromethane | 460 ml | ClCCl | CH2Cl2
product | 3-acetoxy-7α-(5-acetoxypentyl)-17,17-ethylenedioxy-estra-1,3,5(10)-triene | 63.2 g | C(C)(=O)OC1=CC=2C[C@H]([C@H]3[C@@H]4CCC5([C@@]4(C)CC[C@@H]3C2C=C1)OCCO5)CCCCCOC(C)=O | C29H40O6
